US08710090B2
Synthesis of 5-(4-chlorobenzyl)-2-hydroxymethyl-2-methyl-1-(1H-1,2,4-triazol-1-ylmethyl)cyclopentanol
5-(4-Chlorobenzyl)-2-methoxymethoxymethyl-2-methyl-1-(1H-1,2,4-triazol-1-ylmethyl)cyclopentanol (Compound (VII), R1=CH3, Ym=4-Cl, G=CH2OCH3, A=N) (629 mg, 1.66 mmol) was dissolved in methanol (6.3 ml), 10% hydrogen chloride-methanol (6.3 ml, 1.73 mmol) was added and stirring was conducted at room temperature for 48 hours. After completion of the reaction, the solvent was distilled away, and water was added. After ethyl acetate (80 ml) was added, an aqueous solution of sodium hydroxide was added until the pH became 10. The organic layer was separated, washed with saturated brine, and then dried over anhydrous sodium sulfate. The solvent was distilled away to obtain the title compound (VI-1 (Compound (VI), (Ra2)Xa2na2 (OH)pa1=CH3, (Rb2)Xb2nb2 (OH)pb1=CH2OH, Ym=4-Cl, A=N, isomer type: C): VI-2 (Compound (VI), (Ra2)Xa2na2 (OH)pa1=CH2OH, (Rb2)Xb2nb2 (OH)pb1=CH3, Ym=4-Cl, A=N, isomer type: C): other isomers (isomer type: T)=6:3:1).

reactant | 5-(4-Chlorobenzyl)-2-methoxymethoxymethyl-2-methyl-1-(1H-1,2,4-triazol-1-ylmethyl)cyclopentanol | ClC1=CC=C(CC2CCC(C2(O)CN2N=CN=C2)(C)COCOC)C=C1 | C19H26ClN3O3
reactant | hydrogen chloride methanol | 1.73 mmol, 6.3 ml | Cl.CO
solvent | methanol | 6.3 ml | CO | CH4O
product | 5-(4-chlorobenzyl)-2-hydroxymethyl-2-methyl-1-(1H-1,2,4-triazol-1-ylmethyl)cyclopentanol | ClC1=CC=C(CC2CCC(C2(O)CN2N=CN=C2)(C)CO)C=C1 | C17H22ClN3O2
